US08466114B2
To a stirred solution of 2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine (6 g, 36.8 mmol) in DCM (75 mL) at 0° C. was added trifluoroacetic anhydride (6.2 mL, 44.2 mmol) followed by triethyl amine (6.2 mL, 44.2 mmol) and stirred the reaction mixture at 0° C. for 2 h. Reaction mixture was diluted with DCM (100 mL) and then washed with water (100 mL×2), brine (100 mL), dried over anhydrous sodium sulfate, concentrated on to give 1-(2,2-dimethyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2,2,2-trifluoro-ethanone (9.46 g) as brown solid which was purified by column chromatography to furnish 8.7 g pure product.

reactant | 2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine | 36.8 mmol, 6 g | CC1(OC2=C(NC1)C=CC=C2)C | C10H13NO
reactant | trifluoroacetic anhydride | 44.2 mmol, 6.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethyl amine | 44.2 mmol, 6.2 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,2-dimethyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2,2,2-trifluoro-ethanone | 9.46 g | CC1(OC2=C(N(C1)C(C(F)(F)F)=O)C=CC=C2)C | C12H12F3NO2
